US07772233B2
3-(2-Fluoro-4-iodo-phenylamino)-6-methoxy-pyridazine-4-carboxylic acid
To solid 6-chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid (34 mg, 0.09 mmol) in DMF was added NaOMe (0.43 mmol, 0.5 M in MeOH). The mixture was heated at 135° C. for 3 h. The mixture was diluted with ether and extracted with NaOH (1N). The aqueous layer was acidified by concentrated HCl. The desired product was precipitated and was collected by vacuum filtration. LC/MS [8.08 min; 390 (M+1)].

reactant | 6-chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid | 0.09 mmol, 34 mg | ClC1=CC(=C(N=N1)NC1=C(C=C(C=C1)I)F)C(=O)O | C11H6ClFIN3O2
reactant | NaOMe | 0.43 mmol, 0.5 M | C[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(2-Fluoro-4-iodo-phenylamino)-6-methoxy-pyridazine-4-carboxylic acid | FC1=C(C=CC(=C1)I)NC=1N=NC(=CC1C(=O)O)OC | C12H9FIN3O3
